US05051422
1-(3,4-Dichlorophenyl)-4-(1,1-dimethylethyl)-2-piperazinemethanamine
In a manner similar to preparation 2, react 1-(3,4-dichlorophenyl)-4-(1,1-dimethylethyl)-2-piperazinecarbonitrile withlithium aluminum hydride to obtain the title compound.

reactant | 1-(3,4-dichlorophenyl)-4-(1,1-dimethylethyl)-2-piperazinecarbonitrile | ClC=1C=C(C=CC1Cl)N1C(CN(CC1)C(C)(C)C)C#N | C15H19Cl2N3
reactant | aluminum hydride | [H-].[Al+3].[H-].[H-]
product | 1-(3,4-Dichlorophenyl)-4-(1,1-dimethylethyl)-2-piperazinemethanamine | ClC=1C=C(C=CC1Cl)N1C(CN(CC1)C(C)(C)C)CN | C15H23Cl2N3
